US04145432
To a solution of diethyl 2-methyl-4-(2-allyloxyphenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (4.70 g) in ethanol (100 ml) was gradually added at 4° C. sodium borohydride (445.2 mg) and the resultant mixture was stirred at 4° C. for 1.5 hours under ice-cooling. The reaction mixture was acidified with 50% acetic acid and ethanol was removed. To the residue was added water and the aqueous mixture was stirred for 10 minutes. The powder was collected by filtration and washed with water to give crude crystals (4.49 g), which were recrystallized from methanol to give yellow crystals of diethyl 2-methyl-4-(2-allyloxyphenyl)-6-hydroxymethyl-1,4-dihydropiridine-3,5-dicarboxylate, m.p. 124° to 126° C.

reactant | diethyl 2-methyl-4-(2-allyloxyphenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 4.70 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)OCC=C)C(=O)OCC)C=O | C22H25NO6
reactant | sodium borohydride | 445.2 mg | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | diethyl 2-methyl-4-(2-allyloxyphenyl)-6-hydroxymethyl-1,4-dihydropiridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)OCC=C)C(=O)OCC)CO | C22H27NO6
